US06974870B2
Synthesis of 3-Amino-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylic acid amide
α-Bromoacetamide (388 mg, 2.81 mmol) was added to a solution of 2-mercapto-4,6-dimethyl-nicotinonitrile (420 mg, 2.56 mmol) in MeOH (25 mL) at room temperature. This was followed by addition of sodium methoxide (1.76 mL, 25% NaOMe in MeOH, 7.7 mmol). The reaction mixture was heated to reflux. Heating at reflux was continued overnight, after which time the reaction mixture was cooled and filtered. The product was dried overnight providing 450 mg (80%) of the title compound, m.p. 238-40° C.

reactant | α-Bromoacetamide | 2.81 mmol, 388 mg | BrCC(=O)N | C2H4BrNO
reactant | 2-mercapto-4,6-dimethyl-nicotinonitrile | 2.56 mmol, 420 mg | SC1=C(C#N)C(=CC(=N1)C)C | C8H8N2S
reactant | sodium methoxide | 7.7 mmol, 1.76 mL | C[O-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
product | 3-Amino-4,6-dimethyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 450 mg, 80% | NC1=C(SC2=NC(=CC(=C21)C)C)C(=O)N | C10H11N3OS
